US06133258
The reaction procedure of Example 102 was followed except that 1.256 g of 2-chloronicotinoyl chloride, 543 mg of ammonium thiocyanate, 1.379 g of ethyl [4-(methylamino)phenyl]acetate and 24 ml of acetone were used. The product was then recrystallized from ethanol to obtain 1.26 g of ethyl [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]phenyl]acetate.

reactant | 2-chloronicotinoyl chloride | 1.256 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 543 mg | [S-]C#N.[NH4+]
reactant | ethyl [4-(methylamino)phenyl]acetate | 1.379 g | CNC1=CC=C(C=C1)CC(=O)OCC | C11H15NO2
solvent | acetone | 24 ml | CC(=O)C | C3H6O
product | ethyl [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]phenyl]acetate | 1.26 g | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C=C2)CC(=O)OCC | C18H17N3O3S
